* D:\Git Projects\LTspice\CMOS-Inverter-LTspice\simulations\dc_analysis.asc
* Generated by LTspice 26.0.1 for Windows.
M1 VOUT VIN 0 0 N_50n l=50n w=.5u
M2 VOUT VIN VDD VDD P_50n l=50n w=1u
V1 VIN 0 0
V2 VDD 0 1
C1 VOUT 0 1p
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\models\nmos_model.inc
.inc ..\models\pmos_model.inc
.dc V1 0 1 10m
.backanno
.end
