* D:\Git Projects\LTspice\CMOS-Inverter-LTspice\simulations\dc_analysis.asc
* Generated by LTspice 26.0.1 for Windows.
M1 VOUT VIN 0 0 N_50n l=50n w=.5u
M2 VOUT VIN VDD VDD P_50n l=50n w=1u
V1 VIN 0 0
V2 VDD 0 1
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\USER\AppData\Local\LTspice\lib\cmp\standard.mos
.inc ..\models\nmos_model.inc
.inc ..\models\pmos_model.inc
.dc V1 0 1 10m
;step param Wp list .5u 1u 1.2u
.meas V_M FIND V(Vin) WHEN V(Vout)=V(Vin)
.meas Gain FIND d(V(Vout)) WHEN V(Vin)=V_M
.meas VOH MAX V(Vout)
.meas VOL MIN V(Vout)
.meas VIL FIND V(Vin) WHEN d(V(Vout))=-1 CROSS=1
.meas VIH FIND V(Vin) WHEN d(V(Vout))=-1 CROSS=2
.meas NML PARAM VIL - VOL
.meas NMH PARAM VOH - VIH
.backanno
.end
